US06620811B2
2-Ethylsulfanyl-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide
From 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide with sodium ethanethiolate in dioxane and DMF. ES-MS m/e (%): 431 (M+H+, 100).

reactant | 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17BrN4O3S
reactant | sodium ethanethiolate | C(C)[S-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Ethylsulfanyl-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | C(C)SC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C20H22N4O3S2
